US07956083B2
Description 21. 1-{3,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole (D21)
4-[(phenylmethyl)oxy]-1H-indole (500 mg, 2.24 mmoL), 4-bromo-2,6-difluorophenyl phenylmethyl ether (prepared as described in part a), 559 mg, 1.87 mmoL), K3PO4 (990 mg, 4.67 mmoL) and L-Proline (43 mg, 0.373 mmoL) were dissolved in DMF (5 mL) in a microwave vial and degassed by sonication under a flow of argon. To this was added CuI (71 mg, 0.373 mmoL) and the solution was heated to 140° C. in the microwave reactor. After 3 hours the mixture was partitioned between ethyl acetate (100 mL)/water (100 mL), the phases were separated and the aqueous phase re-extracted with ethyl acetate (100 mL). The combined organic phases were washed with sat. NH4Cl (2×100 mL), water (100 mL) and brine (2×100 mL) and finally dried over MgSO4. The crude product was purified by flash chromatography (Biotage SP4, 40+S Cartridge) eluting with a gradient of 0 to 20% Et2O in hexane to give the title compound (D21), (299 mg).

reactant | 4-[(phenylmethyl)oxy]-1H-indole | 500 mg | C1(=CC=CC=C1)COC1=C2C=CNC2=CC=C1 | C15H13NO
reactant | 4-bromo-2,6-difluorophenyl phenylmethyl ether | C1(=CC=CC=C1)COC1=C(C=C(C=C1F)Br)F | C13H9BrF2O
reactant | K3PO4 | 990 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | L-Proline | 43 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{3,5-difluoro-4-[(phenylmethyl)oxy]phenyl}-4-[(phenylmethyl)oxy]-1H-indole | 299 mg | FC=1C=C(C=C(C1OCC1=CC=CC=C1)F)N1C=CC2=C(C=CC=C12)OCC1=CC=CC=C1 | C28H21F2NO2
